US07713994B2
4-Carbamoylmethyl-2-phenyl-pyrimidine-5-carboxylic Acid
A solution of 2.65 g (9.56 mmol) of 4-Methoxycarbonylmethyl-2-phenyl-pyrimidine-5-carboxylic Acid in 11.6 mL of conc NH4OH is stirred at 25° C. for 3 h. The reaction is then diluted with H2O, chilled in ice and acidified with 6M HCl. The product is collected, washed with H2O (2×) and dried in vacuo (low heat) to give 1.55 g (63%) of orange solid: 1H NMR (DMSO-d6) δ 9.17 (s, 1H), 8.44 (m, 2H), 7.67 (s, 1H), 7.60 (m, 3H), 7.02 (s, 1H), 4.12 (s, 2H); MS (ESI)) m/z 256. (M−H). Analysis for C13H11N3O3. 0.5H2O: Calcd: C, 58.63; H, 4.55; N, 15.78. Found: C, 58.88; H, 4.53; N, 15.46.

reactant | 4-Methoxycarbonylmethyl-2-phenyl-pyrimidine-5-carboxylic Acid | 9.56 mmol, 2.65 g | COC(=O)CC1=NC(=NC=C1C(=O)O)C1=CC=CC=C1 | C14H12N2O4
reactant | HCl | 6M | Cl | ClH
reactant | NH4OH | 11.6 mL | [NH4+].[OH-]
solvent | H2O | O | H2O
product | 4-Carbamoylmethyl-2-phenyl-pyrimidine-5-carboxylic Acid | 1.55 g, 63% | C(N)(=O)CC1=NC(=NC=C1C(=O)O)C1=CC=CC=C1 | C13H11N3O3
